datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:29][H:30],4.075216
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:7])([H:5])[H:6].[O:16][O:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])[H:7])([H:5])([H:6])[O:16][O:17],0.8313608
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])[H:9],51.5469
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[C:28](=[O:29])[H:30]>>[C-:28]#[O+:29].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])([H:10])[H:30],0.0
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:24],12.183808
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],18.577
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:15](=[C:16]([H:18])[H:19])[H:17])[H:7],-0.46024
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([O:11][O:12])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:12][O:11][C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([H:17])([H:18])[H:19])[H:16],85.60464
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[N:7]([H:8])[H:9]>>[C:0]([N:1][H:6])([H:2])([H:3])[H:4].[H:5][N:7]([H:8])[H:9],29.8738
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25],43.0952
[C:0](=[C:1]([C:2]([S:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[H:7])([H:5])([H:6])[H:10].[S:3]=[C:4]([H:11])[H:12],160.0
[N:0]([O:1][H:3])[H:2].[O:4][O:5]>>[H:3][O:4][O:5].[N:0](=[O:1])[H:2],104.6
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:9])[H:10])([H:8])[H:16])([H:5])([H:6])[H:7].[O:14][O:15][H:17],5.98312
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19])[H:18]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([S:10][H:18])([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])[H:19],23.8488
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([O:7][O:8])([H:9])([H:10])[H:11]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][O:8][O:7][C:6]([H:9])([H:10])[H:11],57.36264
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:11])([H:12])[H:13].[H:14][O:35][O:36],199.11656
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[N:13]([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][N:13]([H:14])[H:15],13.68168
